US08247421B2
Step 2: 2-chloro-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
2-hydroxy-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (880.2 mg, 1.916 mmol) was cooled down with an ice bath. Phosphorus oxychloride (2.938 g, 1.786 mL, 19.16 mmol) was added dropwise and the reaction mixture was stirred for 30 minutes at 0° C. and then allowed to warm up to rt and stirred at room temperature for 18 hours. The reaction mixture was quenched by slow addition onto ice. After 1 hour of stirring, the mixture was extracted into ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to afford a pale orange solid. The solid was triturated further in EtOAc and filtered off (715.4 mg, 78% yield)

reactant | 2-hydroxy-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 1.916 mmol, 880.2 mg | OC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C20H12F3N5O3S
reactant | Phosphorus oxychloride | 19.16 mmol, 1.786 mL, 2.938 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 78% yield | ClC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C20H11ClF3N5O2S
